US07381823B2
0.69 g of sodium metal are suspended in 30 ml of anhydrous ethanol in a 100 ml flask equipped with a magnetic stirrer, thermometer and condenser, in a nitrogen atmosphere. When the sodium has dissolved, 4.8 g of diethylmalonate are added followed, after 15 minutes, by 4.92 g of cyclohexylidenecyanoacetamide. The mixture is left for 1 hour under agitation at 25° C. and then acidified with 36% HCl. The solid obtained is filtered off and dried under vacuum. 6.84 g of ethyl 5-cyano-2,4-dioxo-3-azaspiro[5,5]undecane-1-carboxylate are obtained.

reactant | sodium | 0.69 g | [Na] | Na
reactant | diethylmalonate | 4.8 g | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | cyclohexylidenecyanoacetamide | 4.92 g | C1(CCCCC1)=C(C(=O)N)C#N | C9H12N2O
reactant | HCl | Cl | ClH
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 5-cyano-2,4-dioxo-3-azaspiro[5,5]undecane-1-carboxylate | 6.84 g | C(#N)C1C(NC(C(C12CCCCC2)C(=O)OCC)=O)=O | C14H18N2O4
